### PR TITLE
feat(QM): `mulOperator` adjoint

### PR DESCRIPTION
**Pull request by gloges**
Completes the proof for multiplication operators that `(𝓜 f)† = 𝓜 (conj ∘ f)`.
The only non-trivial step, `(𝓜 f)†.domain ≤ (𝓜 (conj ∘ f)).domain`, is extracted into a separate lemma (+ one helper lemma).

### CODE REVIEW

**Comment by gloges** [comment]
t-quantum-mechanics

File: Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean [hunk 1]
```diff
@@ -170,48 +169,140 @@ lemma mulOperator_conj_domain {f : Space d → ℂ} (hf : AEStronglyMeasurable f
...
-    have hg : AEStronglyMeasurable g := by measurability
-    have h_int : ∀ ψ : (𝓜 f).domain, ∫ x, (AEEqFun.mk g hg) x * conj (ψ.val x) = 0 := by
+private lemma exists_monotone_sets_hasFiniteIntegral
+    (f g : Space d → ℂ) (hf : AEStronglyMeasurable f) (hg : AEStronglyMeasurable g) :
+    ∃ s : ℕ → Set (Space d), Monotone s ∧ ⋃ n, s n = Set.univ ∧ (∀ n, MeasurableSet (s n))
+      ∧ ∀ k, k = 1 ∨ k = 2 →
+        ∀ n, HasFiniteIntegral (fun x ↦ ‖f x ^ k * g x‖ ^ 2) (volume.restrict (s n)) := by
+  have hfg : AEStronglyMeasurable (fun x ↦ f x * g x) := by measurability
+  have hffg : AEStronglyMeasurable (fun x ↦ f x ^ 2 * g x) := by measurability
+  obtain ⟨w₁, hw₁, hw₁'⟩ := hfg
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean]: I think you can do 
```
obtain ⟨w₁, hw₁, hw₁'⟩ : AEStronglyMeasurable (fun x ↦ f x * g x) := by measurability
```

File: Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean [hunk 2]
```diff
@@ -170,48 +169,140 @@ lemma mulOperator_conj_domain {f : Space d → ℂ} (hf : AEStronglyMeasurable f
...
+  obtain ⟨w₂, hw₂, hw₂'⟩ := hffg
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean]: Similar here

File: Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean [hunk 3]
```diff
@@ -170,48 +169,140 @@ lemma mulOperator_conj_domain {f : Space d → ℂ} (hf : AEStronglyMeasurable f
...
+  let s : ℕ → Set (Space d) :=
+    fun n ↦ Metric.closedBall 0 n ∩ (w₁ ⁻¹' Metric.closedBall 0 n ∩ w₂ ⁻¹' Metric.closedBall 0 n)
+  refine ⟨s, ?_, ?_, by measurability, ?_⟩
+  · intro _ _ hmn _ hx
+    refine ⟨?_, ?_, ?_⟩
+    · exact Metric.closedBall_subset_closedBall (Nat.cast_le.mpr hmn) hx.1
+    · exact Metric.closedBall_subset_closedBall (Nat.cast_le.mpr hmn) hx.2.1
+    · exact Metric.closedBall_subset_closedBall (Nat.cast_le.mpr hmn) hx.2.2
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean]: In theory this could be made into one line 
```
exact fun _ _ hmn _ hx => ⟨Metric.closedBall_subset_closedBall (Nat.cast_le.mpr hmn) hx.1, ..., ...⟩
```
but would understand if you want to keep it as it is

File: Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean [hunk 4]
```diff
@@ -170,48 +169,140 @@ lemma mulOperator_conj_domain {f : Space d → ℂ} (hf : AEStronglyMeasurable f
...
+    refine lt_of_eq_of_lt ?_ (hs_int 1 (Or.inl rfl) n)
+    trans ∫⁻ x in s n, ‖‖w n x‖ ^ 2‖ₑ
+    · exact (setLIntegral_eq_of_support_subset fun x hx ↦ by simp_all [w]).symm
+    exact setLIntegral_congr_fun (hs_meas n) fun x hx ↦ by simp [w, hx, mul_pow]
+  let φ : ℕ → SpaceDHilbertSpace d := fun n ↦ mk (hw n)
+  have hφ : ∀ n, φ n ∈ (𝓜 f).domain := by
+    intro n
+    apply memHS_iff.mpr ⟨by measurability, by measurability, ?_⟩
+    refine lt_of_eq_of_lt ?_ (hs_int 2 (Or.inr rfl) n)
+    trans ∫⁻ x, ‖‖(f • w n) x‖ ^ 2‖ₑ
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean]: Maybe `calc` is easier then these two `trans`

**Review by jstoobysmith — COMMENTED** [review]
A couple of comments, but otherwise this looks good.

File: Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean (hunk 1 above)
Comment (gloges) [reply Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean]: Thanks, much cleaner!

File: Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean (hunk 3 above)
Comment (gloges) [reply Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean]: The ellipses (these are new to me - they look useful!) give errors for some reason, but I've rewritten this slightly to remove the 'refine' scaffolding.

**Comment by gloges** [comment]
Thanks for the suggestions; I've made some improvements.

File: Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean (hunk 3 above)
Comment (jstoobysmith) [reply Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean]: Ah sorry the ellipses where me been lazy, would have to put the other `exact` terms there.

File: Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean [hunk 5]
```diff
@@ -170,48 +169,138 @@ lemma mulOperator_conj_domain {f : Space d → ℂ} (hf : AEStronglyMeasurable f
...
+    intro n
+    apply memHS_iff.mpr ⟨by measurability, by measurability, ?_⟩
+    refine lt_of_eq_of_lt ?_ (hs_int 2 (Or.inr rfl) n)
+    calc
+      _ = ∫⁻ x, ‖‖(f • w n) x‖ ^ 2‖ₑ := by
+        refine lintegral_congr_ae ?_
+        filter_upwards [coe_mk_ae (hw n)] with _ h
+        simp [φ, h]
+      _ = ∫⁻ x in s n, ‖‖(f • w n) x‖ ^ 2‖ₑ := by
+        exact (setLIntegral_eq_of_support_subset fun x hx ↦ by simp_all [w]).symm
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean]: can probably get rid of the `by exact` here.

File: Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean [hunk 6]
```diff
@@ -170,48 +169,138 @@ lemma mulOperator_conj_domain {f : Space d → ℂ} (hf : AEStronglyMeasurable f
...
+lemma mulOperator_adjoint_domain_le {f : Space d → ℂ} (hf : AEStronglyMeasurable f) :
+    (𝓜 f)†.domain ≤ (𝓜 (conj ∘ f)).domain := by
+  intro ψ hψ
+  let ξ : SpaceDHilbertSpace d := (𝓜 f)† ⟨ψ, hψ⟩
+  obtain ⟨s, hs_mono, hs_univ, hs_meas, hs_int⟩ :=
+    exists_monotone_sets_hasFiniteIntegral (conj ∘ f) ψ (by fun_prop) ψ.val.aestronglyMeasurable
+  let w : ℕ → Space d → ℂ := fun n ↦ (s n).indicator ((conj ∘ f) • ψ)
+  have hw : ∀ n, MemHS (w n) := by
+    intro n
+    apply memHS_iff.mpr ⟨by measurability, by measurability, ?_⟩
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/Operators/Multiplication.lean]: `refine` might be better then `apply`, given the use of `?_`

**Review by jstoobysmith — COMMENTED** [review]
Couple more comments.

**Comment by gloges** [comment]
Thanks, changes made.

**Review by jstoobysmith — APPROVED** [review]
Approved - will merge shortly.
